US04317770
O-Benzyloxycarbonyl-D-tyrosine
This compound was prepared from D-tyrosine (1.02 g) in the same manner as the L-isomer as described by Overell and Petrow, J. Chem. Soc. 232 (1955); yield, 0.73 g (40%); mp 208°-210° decn; tlc (BAW) Ff 0.55; [α]D24 +9.1 (c 2.14, 80% acetic acid).

reactant | D-tyrosine | 1.02 g | N[C@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | O-Benzyloxycarbonyl-D-tyrosine | C(C1=CC=CC=C1)OC(=O)OC1=CC=C(C[C@@H](N)C(=O)O)C=C1 | C17H17NO5
